US08314109B2
A suspension of 270 mg of 6-(1-triphenylmethyl-1H-imidazol-4-yl)-N-phenyl-imidazo[1,2-a]pyridine-2-carboxamide in 4 mL of 2N hydrochloric acid is heated for 30 minutes at 70° C. and then diluted with 2 mL of methanol, heated for 45 minutes at reflux, diluted again by addition of 2 mL of dichloromethane and heated for a further 2 hours at reflux. The reaction mixture is stirred for 60 hours at room temperature. The precipitate is filtered off by suction, washed with methanol, water and then pentane and dried under reduced pressure to give 96 mg of 6-(1H-imidazol-4-yl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide hydrochloride (1:1) in the form of a white solid.

reactant | 6-(1-triphenylmethyl-1H-imidazol-4-yl)-N-phenyl-imidazo[1,2-a]pyridine-2-carboxamide | 270 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H27N5O
reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | hydrochloric acid | 2N, 4 mL | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | 6-(1H-imidazol-4-yl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide hydrochloride | 96 mg | Cl.N1C=NC(=C1)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | InChI=1S/C17H13N5O.ClH/c23-17(20-13-4-2-1-3-5-13)15-10-22-9-12(6-7-16(22)21-15)14-8-18-11-19-14;/h1-11H,(H,18,19)(H,20,23);1H
